US07417157B2
13.3 g (35.3 mmol) of (±)-(3R*,4aR*,9bS*)-3-(1,4-dioxaspiro[4.5]dec-8-yl)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran are dissolved in 200 ml of toluene and stirred vigorously together with 40 ml (1.06 mol) of formic acid with addition of 1.0 ml (55.6 mmol) of water. After 18 h, the organic phase is separated off, and the formic acid is extracted with toluene. The combined organic phases are washed successively with water, sat. sodium hydrogencarbonate solution and sat. sodium chloride solution and dried using sodium sulfate. The crude product remaining after removal of the solvent is purified by column chromatography (SiO2, toluene:ethyl acetate=4:1), giving (±)-4-((3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-yl)cyclohexanone as colourless solid.

reactant | (±)-(3R*,4aR*,9bS*)-3-(1,4-dioxaspiro[4.5]dec-8-yl)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran | 35.3 mmol, 13.3 g | O1CCOC12CCC(CC2)[C@@H]2CC[C@@H]1[C@H](OC3=C1C=CC(=C3F)OCC)C2 | C22H29FO4
reactant | formic acid | 1.06 mol, 40 ml | C(=O)O | CH2O2
reactant | water | 55.6 mmol, 1.0 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-4-((3R*,4aR*,9bS*)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-yl)cyclohexanone | C(C)OC1=C(C2=C([C@H]3[C@H](O2)C[C@@H](CC3)C3CCC(CC3)=O)C=C1)F | C20H25FO3
